US07262185B2
To a solution of aluminum lithium hydride (0.72 g) in THF (64 ml) was added dropwise a solution of methyl 1-propyl-1,2,3-triazole-5-carbonate (3.2 g) in. THF (32 ml) at 0° C. The mixture was stirred for 1 hour at room temperature, and an aqueous solution of saturated sodium thiosulfate was added to the mixture at 0° C. The mixture was filtered with Celite, and washed with ethanol. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 5-hydroxymethyl-1-propyl-1,2,3-triazole (2.8 g). To 5-hydroxymethyl-1-propyl-1,2,3-triazole (2.8 g) was added thionyl chloride (16.8 ml) at 0° C., and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, the solvent was removed under reduced pressure, and to the obtained residue was added ethyl acetate and the precipitates were filtered, to give 5-chloromethyl-1-propyl-1,2,3-triazole hydrochloride (2.1 g).

reactant | 5-hydroxymethyl-1-propyl-1,2,3-triazole | 2.8 g | OCC1=CN=NN1CCC | C6H11N3O
reactant | thionyl chloride | 16.8 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-1-propyl-1,2,3-triazole hydrochloride | 2.1 g | Cl.ClCC1=CN=NN1CCC | InChI=1S/C6H10ClN3.ClH/c1-2-3-10-6(4-7)5-8-9-10;/h5H,2-4H2,1H3;1H
